US08022062B2
7-Fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Add N-fluoro-4,6-bis(trifluoromethyl)-pyridinium 2-sulfonate (3.02 g, 9.6 mmol) to a stirred mixture of 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.5 g, 9.6 mmol) and hexafluoro-2-propanol (10 mL) in DCM (150 mL). Stir at ambient temperature for 16 h. Concentrate the reaction mixture and partition the residue between EtOAc and 1N aqueous HCl. Wash the organic fraction with saturated aqueous NaHCO3, brine, dry over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (20:1, 10:1, 6:1, 5:1 and 3:1) to give 7-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a white solid (1.8 g, 68%). Dissolve 7-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.5 g, 5.41 mmol) in a mixture of DCM (20 mL) and pyridine (2 mL) and cool in an ice bath. Add dropwise to the stirred solution a mixture of trifluoromethanesulfonic anhydride (1.64 mL, 9.74 mmol) in DCM and stir the reaction for 1.5 h at ambient temperature. Dilute the reaction with DCM (300 mL) and wash with 2.5N aqueous HCl. Dry the organic fraction over Na2SO4, filter and concentrate to give the title product as a white solid (2.2 g, 99%). MS (ES+) m/z: 410 (M+H)+.

reactant | 7-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.41 mmol, 1.5 g | FC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C12H11F4NO2
reactant | trifluoromethanesulfonic anhydride | 9.74 mmol, 1.64 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.2 g, 99% | FC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10F7NO4S
